US07230098B2
4-{6-Amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl}-N-(2-pyrrolidin-1-yl-ethyl)-benzamide was prepared following procedure 4 starting from 4-{6-amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl}-benzoic acid and 2-pyrrolidin-1-yl-ethylamine.

reactant | 4-{6-amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl}-benzoic acid | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)OC(C)C1=C(C=CC=C1Cl)Cl | C20H16Cl2N2O3
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
product | 4-{6-Amino-5-[1-(2,6-dichloro-phenyl)-ethoxy]-pyridin-3-yl}-N-(2-pyrrolidin-1-yl-ethyl)-benzamide | NC1=C(C=C(C=N1)C1=CC=C(C(=O)NCCN2CCCC2)C=C1)OC(C)C1=C(C=CC=C1Cl)Cl | C26H28Cl2N4O2
